2179-05-14 09:32:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with h/o systolic HF, dil cardiomyopathy, admitted with
   septic shock.  Vasopressin added yesterday.  Levophed and vasopressin
   weaned overnight.  Feels much better.
   24 Hour Events:
 MULTI LUMEN - START [**2179-5-13**] 08:00 AM
   placed in ED
 BLOOD CULTURED - At [**2179-5-13**] 08:12 AM
 EKG - At [**2179-5-13**] 08:12 AM
 ULTRASOUND - At [**2179-5-13**] 11:30 AM
 TRANSTHORACIC ECHO - At [**2179-5-13**] 01:25 PM
 ARTERIAL LINE - START [**2179-5-13**] 10:41 PM
 FEVER - 102.5
F - [**2179-5-13**] 09:00 AM
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-5-13**] 11:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-14**] 07:40 AM
   Metronidazole - [**2179-5-14**] 08:11 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-5-14**] 07:58 AM
   Other medications:
   vanco
   SSI
   allopurinol
   levophed 0.15
   pepcid
   hydrocort 100mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-5-14**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.6
   HR: 77 (71 - 100) bpm
   BP: 112/66(81) {94/54(67) - 112/67(81)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (9 - 24)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  6,441 mL
                                                                    587 mL
   PO:
   TF:
   IVF:
                                                                  3,441 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    720 mL
   Urine:
                                                                    800 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,641 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.9 g/dL
   128 K/uL
   227 mg/dL
   3.0 mg/dL
   15 mEq/L
   5.4 mEq/L
   64 mg/dL
   101 mEq/L
   130 mEq/L
   30.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
   WBC
   8.1
   5.7
   Hct
   28.4
   30.9
   Plt
   137
   128
   Cr
   3.7
   3.6
   3.0
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   Other labs: PT / PTT / INR:81.4/64.4/9.8, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:11/31, Alk Phos / T Bili:89/3.6,
   Differential-Neuts:67.0 %, Band:0.0 %, Lymph:15.0 %, Mono:7.0 %,
   Eos:11.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:205 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: Echo yesterday:  EF: 15-20%
   Cortisol stim: 6.5-10.1-10.7
   Imaging: CXR:  no pulmonary edema
   Microbiology: blood cx: NGTD
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION:
   Shock:  [**Month (only) 60**] have been a combination of dehydration, a viral syndrome,
   and adrenal insufficiency.
   acute renal failure:  creatinine improved.  continue to watch
   elevated INR:  coumadin held.  Got 2mg po vitamin K.   likely due to
   antibiotics and lack of POs.
   DM:  high glucoses.   Increase sliding scale
   CHF:  holding dig in setting of renal failure.  Hold torsemide and
   carvedilol in setting of HOTN.
   AFib:  well controlled.
   eosinophilia:  check another eosinophil count today.
   Advance to PO diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   18 Gauge - [**2179-5-13**] 09:43 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2179-05-15 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Taken off vasopressin and levophed weaned down to 0.04
   - CT chest: Left lower lobe atelectasis or pneumonia.
   - Got total of 4PO Vit K for INR >10
   - Rheum: prednisone taper, consider re-tap if indicated
   - [**Last Name (un) 276**]: consider adrenal MRI to eval adrenal insufficiency (CT NML)
   - loose bowel movements (subacute) - checking stool for c.diff
   - fingersticks >400 --> given 10 + 6 units insulin but continued to be
   in high 300s so started on insulin gtt overnight.
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-5-13**] 11:54 PM
   Metronidazole - [**2179-5-15**] 12:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2179-5-14**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-5-15**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 78) bpm
   BP: 99/52(66) {77/49(62) - 117/66(81)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 13 (12 - 18)mmHg
   Total In:
                                                                  1,687 mL
                                                                    357 mL
   PO:
                                                                    590 mL
   TF:
   IVF:
                                                                  1,097 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    710 mL
   Urine:
                                                                  2,110 mL
                                                                    710 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -673 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   129 K/uL
   9.6 g/dL
   327 mg/dL
   2.5 mg/dL
   17 mEq/L
   4.2 mEq/L
   75 mg/dL
   105 mEq/L
   134 mEq/L
   28.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
   WBC
   8.1
   5.7
   5.8
   Hct
   28.4
   30.9
   28.6
   Plt
   137
   128
   129
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   246
   249
   327
   Other labs: PT / PTT / INR:43.6/50.3/4.6 (11.5)
   ALT / AST:[**11-21**], Alk Phos / T Bili:70/2.3 (3.6), %, Lactic Acid:1.2
   mmol/L, Albumin:2.9 g/dL, LDH:158 IU/L
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Dig: 0.7 (1.2)
   Assessment and Plan
   Assessment and Plan:
   Mr. [**Known lastname 12162**] is a 63yo M w/hx of severe systolic HF, EF 15-20%, afib on
   coumadin, who presents with hypotension
   .
   #. Hypotension:  Patient with marked fever, vasodilation, tachypnea on
   initial exam more consistent with septic shock possibly from pulmonary
   source as possible pneumonia on CT scan (although normal lactate and
   normal WBC count).  Septic arthritis considered given prominent joint
   complains and history of gout although joint tap negative.  Adrenal
   insufficiency considered given low cortisol on admission and <25%
   response to cosyntropin may be primary or functional in setting of
   acute illness .  PE considered although supratherapeutic INR.  Able to
   wean from vasopressin and wean from levophed over the past 24 hours.
   -  MAP goal 60-65.  [**Month (only) 60**] need to be less aggressive with MAP target of
   60 rather than typical 65 given h/o EF 10-15%, but previous BP's noted
   to be normal.
   - levophed as needed for MAP >60 and attempt to wean, may use small
   250cc IVF bolus if necessary
   CVP goal is likely much higher than typical [**9-9**] given h/o CHF.  Will
   be very difficult to interpret given h/o severe TR.  Would continue to
   give fluids for now and monitor respiratory status.
   - trend lactate
   .
   #. Infection/Sepsis: No clear source clinically although evidence of
   pneumonia on chest imaging.  TTE showing no evidence of vegetations on
   the valves or hardware
   - f/u blood, sputum, urine cx
   - continue vancomycin, zosyn, flagyl
   - Zosyn -> trend LFT's given h/o allergy to unasy-
   - Rheum consult for possible elbow tap and assistance with gout
   management.
   - trend labs.
   .
   # Adrenal insufficiency: Symptoms include hypotension, fever, diarrhea,
   elevated eosinophils.  Low serum cortisol with failed ACTH stimulation
   test.  Confounding factors that colchicine causes diarrhea, allupurinol
   induces hypereosinophilia.  Abdominal CT with no evidence of adrenal
   pathology.
   - continue hydrocortisone and taper to prednisone once off pressors
   - consider MRI adrenal to r/o hemorrhage while on coumadin or infection
   .
   #Hyperglycemia: poor glucose control in the setting of high dose
   steroids
   -insulin gtt change to tighter insulin SS this AM
   - [**Last Name (un) **] consult recs
   #. ARF: Likely pre-renal from poor-perfusion of kidneys, but must
   consider ATN given hypotension.  Intrinsic renal disease from septic
   emboli would seem less likely.  Trend improving with IVF's.  - Urine
   bland.  Normal renal U/S.
   - follow urine output closely and consider renal c/s if creatinine
   worsening
   - Renally dose all medications.
   - Is likely to be torsemide dependent given severe CHF and renal
   failure so would consider dosing torsemide this PM after more fluids or
   if any change to respiratory status.
   - PM lytes/creatinine
   .
   #. Elevated INR: likely elevated in the setting of coumadin use with
   other medical problems.  Trending down after Vit K
   - hold coumadin and trend given antibiotics.
   - if signs of bleeding, consider vitamin K/FFP
   .
   #. Elevated T. Bili: has been chronically elevated in the past with
   other LFT elevations.  CT unremarkable for obstructive etiology.
   Trending down
   .
   # CHF: Non-ischemic cardiomyopathy with severe TR.
   - Hold carvedilol given shock
   - Hold diovan given shock
   - Restart digoxin given low level this AM
   - Hold torsemide and dose as needed.
   - FYI to primary Cardiologist Dr. [**First Name (STitle) **]
   .
   # Atrial Fibrillation: h/o and returned to with dopamine on board.
   Wean dopamine, hold coumadin and other outpatient medications for now.
   - dose digoxin by level.
   .
   # Sinusitis: By history has had several months of sinus congestion.
   - fluticasone nasal spray
   - antibiotics
   - consider sinus CT
   .
   # Eosinophilia: Absolute count about 900.  Has been noted in the past.
   Concerning for malignancy, occult parasitic infection, Churg-Strasuss
   (does have rhinitis but no h/o asthma and is older than typically
   seen).
   - Check ANCA
   - Trend eosinphils
   - Steroids prn as per rheumatology
   - Add on diff to AM labs
   - Rheum consult.
 F/U recs
   .
   # Non-specific CT findings: Unclear how to correlate clinically.
   - repeat CT head this PM for further evaluation.
   - consider dedicated sinus CT with this series.
   .
   # Gout: Renally dose allopurinol. No fluid to tap.
   - F/u rheum recs
   - hold colchicine/ibuprofen given renal failure.
   # FEN: IVF, replete/trend electrolytes, ADAT
   # Prophylaxis: INR supratherapeutic, pneumoboots,  famotidine
   # Access: peripherals, CVL, A-line
   # Communication: Patient and wife who works in Radiology for [**Hospital1 54**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   18 Gauge - [**2179-5-13**] 09:43 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-05-15 11:01:00 Physician Attending Progress Note
Chief Complaint: Hypotension/Shock (septic with adrenal insufficiency)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Arm/elbow pain better this AM
   24 Hour Events:
   Levophed now off - but SBP on 80s
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-5-13**] 11:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Metronidazole - [**2179-5-15**] 07:51 AM
   Vancomycin - [**2179-5-15**] 09:45 AM
   Infusions:
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-5-15**] 07:51 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: Diarrhea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-5-15**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 71 (70 - 78) bpm
   BP: 93/55(67) {77/49(62) - 117/63(78)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 69 Inch
   CVP: 13 (12 - 18)mmHg
   Total In:
                                                                  1,687 mL
                                                                    821 mL
   PO:
                                                                    590 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,097 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    990 mL
   Urine:
                                                                  2,110 mL
                                                                    990 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -673 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.6 g/dL
   129 K/uL
   327 mg/dL
   2.5 mg/dL
   17 mEq/L
   4.2 mEq/L
   75 mg/dL
   105 mEq/L
   134 mEq/L
   28.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
   WBC
   8.1
   5.7
   5.8
   Hct
   28.4
   30.9
   28.6
   Plt
   137
   128
   129
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   246
   249
   327
   Other labs: PT / PTT / INR:43.6/50.3/4.6, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/2.3,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:12.9 %, Mono:4.4 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:158 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   63 yo man with CHF (EF 15-20%), in MICU with hypotension/shock likely
   septic with contribution of adrenal insufficiency.
   Hypotension: Off of levophed.  D/C vanco/zosyn/flagyl given lack of
   source
   Adrenal insufficiency: Cont hydrocort
   acute renal failure:  Cr improving but not back to baseline, cont to
   monitor
   Elevated INR:  Cont to hold Coumadin
   DM:  Cont insulin gtt --> will need to while on steroids
   CHF:  No active diuresis for now
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   18 Gauge - [**2179-5-13**] 09:43 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2179-05-16 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2179-5-15**]:
   Patient continued on levophed.
   - patient had episodes of confusion that waxed and waned consistent
   with delirium.  Pt. would no longer allow us to obtain finger sticks,
   saying "you're with those people." Pt received Haldol 2mg IV x 1 with
   decent effect.
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-5-13**] 11:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Metronidazole - [**2179-5-15**] 07:51 AM
   Vancomycin - [**2179-5-15**] 08:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-5-15**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-5-16**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 77 (69 - 79) bpm
   BP: 117/63(79) {73/37(48) - 120/68(84)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  2,131 mL
                                                                    188 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                  1,391 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    525 mL
   Urine:
                                                                  1,860 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    271 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   151 K/uL
   9.8 g/dL
   115 mg/dL
   2.1 mg/dL
   16 mEq/L
   4.0 mEq/L
   84 mg/dL
   110 mEq/L
   137 mEq/L
   27.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
                             [**2179-5-16**]  03:00 AM
   WBC
   8.1
   5.7
   5.8
   9.1
   Hct
   28.4
   30.9
   28.6
   27.8
   Plt
   137
   128
   129
   151
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   2.1
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   [**Telephone/Fax (2) 12182**]15
   Other labs: PT / PTT / INR:22.9/35.5/2.2, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/2.3,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:12.9 %, Mono:4.4 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:158 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Micro:
   - Stool studies pending
   - BCx NGTD
   - Urine legionella negative
   Assessment and Plan
   Mr. [**Known lastname 12162**] is a 63yo M w/hx of severe systolic HF, EF 15-20%, afib on
   coumadin, who presents with hypotension
   .
   #. Hypotension:  Patient with marked fever, tachypnea, vasodilated on
   initial exam concerning for septic shock possibly from pulmonary source
   as possible pneumonia on CT scan (although normal lactate and normal
   WBC count).  Septic arthritis considered given prominent joint
   complains and history of gout although joint tap negative.  Evidence of
   adrenal insufficiency given symptoms of fever, hypotension, diarrhea,
   high eosinophils, hyponatremia, hyperkalemia then low cortisol with
   failed ACTH stimulation.  Able to wean from vasopressin and wean down
   from levophed over the past 24 hours.
   - Currently on levophed, but with stable BPs
 will attempt to wean
   -  Will follow UOP and re-start vasopressors as needed for MAP >60
   - CVP goal is likely much higher than typical [**9-9**] given h/o CHF.  Will
   be very difficult to interpret given h/o severe TR.
   - lactate has been stable
   .
   #. ? infection/sepsis: No clear source clinically and patient has
   remained afebrile, normal white count without any growth on culture. CT
   chest  on admission with opacity atelectasis/pna.  TTE showing no
   evidence of vegetations on valves or hardware
   - fever curve
   - f/u blood, sputum, urine cx
   - Off Abx
   - rheumatology recs, consider repeat tap if clinically worsens and
   appropriate clinical scenario.
   .
   # Adrenal insufficiency: Symptoms include hypotension, fever, diarrhea,
   elevated eosinophils.  Low serum cortisol with failed ACTH stimulation
   test.  Confounding factors that colchicine causes diarrhea, allupurinol
   induces hypereosinophilia.  Abdominal CT with no evidence of adrenal
   pathology.
   - continue hydrocortisone, but likely will start oral taper:
        - Hydrocortisone 50mg PO q 8 hours x 3 days
   - consider stim test when patient is on floor
   - consider MRI adrenal to r/o hemorrhage while on coumadin or infection
   .
   #Hyperglycemia: poor glucose control in the setting of high dose
   steroids. Poor PO intake yesterday
   - insulin gtt change to tighter insulin SS this AM as takes PO (will
   confirm with [**Last Name (un) 276**])
   - diabetic diet
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] consult recs
   - would like to transition to subcutaneous insulin today, but could be
   challenging in setting of tapering steroid doses.  Will discuss with
   [**Last Name (un) 276**].
   .
   #. ARF: Likely pre-renal from poor-perfusion of kidneys, but must
   consider ATN given hypotension.  Intrinsic renal disease from septic
   emboli would seem less likely.  Trend improving with IVF's.  - Urine
   bland.  Normal renal U/S.
   - follow urine output closely and consider renal c/s if creatinine
   worsening
   - Renally dose all medications.
   - hold [**Last Name (un) 239**]
   - Is likely to be torsemide dependent given severe CHF and renal
   failure so would consider dosing torsemide later
   - d/c foley today
   .
   #. Elevated INR: likely elevated in the setting of coumadin use with
   other medical problems.  Trending down after Vit K
   - hold coumadin until INR <4 and trend given antibiotics then restart
   home dose
   - plan to restart Coumadin today (3.5 mg)
   - if signs of bleeding, consider vitamin K/FFP
   .
   #. Elevated T. Bili: has been chronically elevated in the past with
   other LFT elevations.  CT unremarkable for obstructive etiology.
   Trending down
   .
   # CHF: Non-ischemic cardiomyopathy with severe TR.
   - Hold carvedilol given shock
   - Hold diovan given shock
   - Restart digoxin at home dose given low level this AM
   - Hold torsemide and dose as needed.
   - FYI to primary Cardiologist Dr. [**First Name (STitle) **]
   .
   # Atrial Fibrillation: h/o and returned to with dopamine on board.
   Wean dopamine, hold coumadin and other outpatient medications for now.
   - dose digoxin by level
 low at 0.7 today
   - plan to restart Coumadin today (3.5 mg)
   .
   # Sinusitis: By history has had several months of sinus congestion.
   - fluticasone nasal spray
   - antibiotics
   - consider sinus CT
   .
   # Eosinophilia: Absolute count about 900.  Has been noted in the past.
   Concerning for malignancy, occult parasitic infection, Churg-Strasuss
   (does have rhinitis but no h/o asthma and is older than typically
   seen).
   - Check ANCA
   - Trend eosinphils
   - Steroids prn as per rheumatology
   - Add on diff to AM labs
   - Rheum consult.
 F/U recs
   .
   # Gout: Renally dose allopurinol. No fluid to tap.
   - F/u rheum recs
   - hold colchicine/ibuprofen given renal failure.
   # AMS. Waxing and [**Doctor Last Name 42**] yesterday, refusing FS. Received haldol x 1
   with good effect.
   - Monitor MS
   - Chemical restraint as needed
   # FEN: IVF, replete/trend electrolytes, regular low sodium/heart
   healthy/diabetic diet
   # Prophylaxis: INR supratherapeutic, pneumoboots,  famotidine
   # Access: peripherals, CVL, A-line (try to discontinue today)
   # Communication: Patient and wife who works in Radiology for [**Hospital1 54**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   18 Gauge - [**2179-5-13**] 09:43 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-05-16 10:42:00 Physician Attending Progress Note
Chief Complaint: Adrenal Insufficiency, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Needed to be back on levophed for much of the day yestreday but now
   back off
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-5-13**] 11:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Metronidazole - [**2179-5-15**] 07:51 AM
   Vancomycin - [**2179-5-15**] 08:00 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-5-15**] 07:40 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-5-16**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (69 - 92) bpm
   BP: 114/57(74) {73/37(48) - 136/78(97)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 69 Inch
   CVP: 2 (2 - 2)mmHg
   Total In:
                                                                  2,131 mL
                                                                    233 mL
   PO:
                                                                    740 mL
   TF:
   IVF:
                                                                  1,391 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                  1,255 mL
   Urine:
                                                                  1,860 mL
                                                                    855 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    271 mL
                                                                 -1,022 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.8 g/dL
   151 K/uL
   115 mg/dL
   2.1 mg/dL
   16 mEq/L
   4.0 mEq/L
   84 mg/dL
   110 mEq/L
   137 mEq/L
   27.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
                             [**2179-5-16**]  03:00 AM
   WBC
   8.1
   5.7
   5.8
   9.1
   Hct
   28.4
   30.9
   28.6
   27.8
   Plt
   137
   128
   129
   151
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   2.1
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   [**Telephone/Fax (2) 12182**]15
   Other labs: PT / PTT / INR:22.9/35.5/2.2, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/2.3,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:12.9 %, Mono:4.4 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:158 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   63 yo man with CHF (EF 15-20%), in MICU with hypotension/shock likely
   septic with contribution of adrenal insufficiency.
   Hypotension: Try to keep him off of pressors.
   Adrenal insufficiency: Cont hydrocort - switch to 50mg po q8 hrs
   today.  Will repeat [**Last Name (un) 45**] stim while in house
   acute renal failure:  Cr continues to improve
   Elevated INR:  Restart Coumadin
   DM:  Cont insulin gtt
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   18 Gauge - [**2179-5-13**] 09:43 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2179-05-17 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2179-5-16**] 11:15 AM
   - Patient off pressors morning of [**5-16**] at ~8:00 AM
   - Dig and warfarin restarted
   - Hydrocortisone taper initiated at 50 mg PO Q8H but changed to
   prednisone 30mg daily later per pharm recs (although lacks mineralocort
   activity). Will plan for 10-day taper; recommend patient undergo
   re-stimulation later this admission once called out to floor. A-line
   left in while monitoring.
   - Insulin sliding scale adjusted [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs; insulin gtt weaned
   off in late afternoon
   - Foley removed
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Metronidazole - [**2179-5-15**] 07:51 AM
   Vancomycin - [**2179-5-16**] 08:28 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-5-17**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 67 (63 - 92) bpm
   BP: 104/55(70) {90/47(61) - 136/94(97)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 13 (2 - 18)mmHg
   Total In:
                                                                  1,660 mL
                                                                    129 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    900 mL
   Urine:
                                                                  1,655 mL
                                                                    900 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -771 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Fingerstick: 185-250
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   157 K/uL
   9.8 g/dL
   215 mg/dL
   1.7 mg/dL
   17 mEq/L
   3.9 mEq/L
   89 mg/dL
   110 mEq/L
   138 mEq/L
   27.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
                             [**2179-5-16**]  03:00 AM
                             [**2179-5-17**]  04:10 AM
   WBC
   8.1
   5.7
   5.8
   9.1
   9.0
   Hct
   28.4
   30.9
   28.6
   27.8
   27.8
   Plt
   137
   128
   129
   151
   157
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   2.1
   1.7
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   [**Telephone/Fax (2) 12182**]15
   215
   INR: 1.9   Dig: 0.7
   Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Micro:  Coag negative staph, gram positive cocci  pairs/clusters, stool
   studies pending
   Assessment and Plan
   Mr. [**Known lastname 12162**] is a 63yo M w/hx of severe systolic HF, EF 15-20%, afib on
   coumadin, who presents with hypotension
   .
   #. Hypotension:  Likely due to adrenal insufficiency, given symptoms of
   fever, hypotension, diarrhea, high eosinophils, hyponatremia,
   hyperkalemia then low cortisol with failed ACTH stimulation. Initially,
   patient with marked fever, tachypnea, vasodilated on initial exam
   concerning for septic shock possibly from pulmonary source as possible
   pneumonia on CT scan (although normal lactate and normal WBC count).
   Septic arthritis considered given prominent joint complains and history
   of gout although joint tap negative.  On vasopressors at admit, but
   weaned off over 48 hours.  Normotensive with normal lactate.
   -  Will follow UOP and re-start vasopressors as needed for MAP >60
   - CVP goal is likely much higher than typical [**9-9**] given h/o CHF.  Will
   be very difficult to interpret given h/o severe TR.
   .
   #.  Infection/sepsis:  Admission blood culture growing coag negative
   staph, likely contaminant.  CT chest on admission with opacity
   atelectasis/pna.  Patient has remained afebrile, normal white count.
   TTE w/ no evidence of vegetations on valves or hardware
   - discontinue vancomycin
   - appreciate rheumatology recs: consider repeat tap if clinically
   worsens and appropriate clinical scenario
   .
   # Adrenal insufficiency: Symptoms include hypotension, fever, diarrhea,
   elevated eosinophils.  Low serum cortisol with failed ACTH stimulation
   test.  Confounding factors that colchicine causes diarrhea, allupurinol
   induces hypereosinophilia.  Abdominal CT with no evidence of adrenal
   pathology.  Started on [**2179-5-16**] on oral prednisone with plan for taper.
   - prednisone 30mg daily with plan for 10 day taper
   - consider stim test when patient is on floor
   - consider MRI adrenal to r/o hemorrhage while on coumadin or infection
   pending improvement in renal function
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   .
   #Hyperglycemia: poor glucose control in the setting of high dose
   steroids. Off insulin gtt overnight w/ adequate control on SSI.
   - increase glargine 15U to 18U with insulin sliding scale
   - diabetic diet
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] consult recs
   .
   #. ARF: Likely pre-renal from poor-perfusion of kidneys, but must
   consider ATN given hypotension.  Intrinsic renal disease from septic
   emboli would seem less likely.  Trend improving with IVF's.  - Urine
   bland.  Normal renal U/S.
   - follow urine output closely and consider renal c/s if creatinine
   worsening
   - Renally dose all medications.
   - hold [**Last Name (un) 239**]
   - Is likely to be torsemide dependent given severe CHF and renal
   failure so would consider dosing torsemide  later but for now does not
   appear volume overloaded and is auto-diuresing
   .
   #. Elevated INR: likely elevated in the setting of coumadin use with
   other medical problems.  Trending down after Vit K
   - continue Coumadin today (3.5 mg) at home dose
   - if signs of bleeding, consider vitamin K/FFP
   .
   #. Elevated T. Bili: has been chronically elevated in the past with
   other LFT elevations.  CT unremarkable for obstructive etiology.
   Trending down
   .
   # CHF: Non-ischemic cardiomyopathy with severe TR.
   - Hold carvedilol given shock
   - Hold diovan given shock
   - Digoxin continued
   - Hold torsemide and dose as needed.
   - FYI to primary Cardiologist Dr. [**First Name (STitle) **]
   .
   # Atrial Fibrillation: h/o and returned to with dopamine on board.
   Wean dopamine, hold coumadin and other outpatient medications for now.
   - dose digoxin by level
 low at 0.7 today
   - continue Coumadin today (3.5 mg)
   .
   # Sinusitis: By history has had several months of sinus congestion.
   - fluticasone nasal spray
   - consider sinus CT
   .
   # Eosinophilia: Absolute count about 900.  Has been noted in the past.
   Concerning for malignancy, occult parasitic infection, Churg-Strasuss
   (does have rhinitis but no h/o asthma and is older than typically
   seen).   Improved with steroids.
   - Check ANCA
   - Trend eosinphils
   - Steroids prn as per rheumatology
   - Add on diff to AM labs
   - Rheum consult.
 F/U recs
   .
   # Gout: Renally dose allopurinol. No fluid to tap.
   - F/u rheum recs
   - hold colchicine/ibuprofen given renal failure.
   # AMS. Waxing and [**Doctor Last Name 42**] yesterday, refusing FS. Received haldol x 1
   with good effect.
   - Monitor MS
   - Chemical restraint as needed
   # FEN: IVF, replete/trend electrolytes, regular low sodium/heart
   healthy/diabetic diet
   # Prophylaxis: INR supratherapeutic, pneumoboots,  discontinue
   famotidine
   # Access: peripherals, CVL, A-line (try to discontinue today)
   # Communication: Patient and wife who works in Radiology for [**Hospital1 54**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-05-17 14:02:00 Physician Attending Progress Note
Chief Complaint: Hypotension, adrenal insufficiency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off pressors since yest AM
   Doing well this AM --> no complaints
   24 Hour Events:
 EKG - At [**2179-5-16**] 11:15 AM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Unasyn (Intraven.) (Ampicillin Sodium/Sulbactam Na)
   transaminitis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-5-15**] 02:25 AM
   Metronidazole - [**2179-5-15**] 07:51 AM
   Vancomycin - [**2179-5-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: No(t) Joint pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-5-17**] 02:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.4
C (95.8
   HR: 71 (60 - 98) bpm
   BP: 109/67(77) {87/55(63) - 116/67(77)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Height: 69 Inch
   CVP: 11 (11 - 22)mmHg
   Total In:
                                                                  1,660 mL
                                                                  1,319 mL
   PO:
                                                                    720 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                  1,300 mL
   Urine:
                                                                  1,655 mL
                                                                  1,300 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -395 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.8 g/dL
   157 K/uL
   215 mg/dL
   1.7 mg/dL
   17 mEq/L
   3.9 mEq/L
   89 mg/dL
   110 mEq/L
   138 mEq/L
   27.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2179-5-13**]  08:14 AM
                             [**2179-5-13**]  02:00 PM
                             [**2179-5-13**]  04:15 PM
                             [**2179-5-14**]  01:50 AM
                             [**2179-5-14**]  09:29 AM
                             [**2179-5-14**]  05:19 PM
                             [**2179-5-15**]  03:51 AM
                             [**2179-5-16**]  03:00 AM
                             [**2179-5-17**]  04:10 AM
   WBC
   8.1
   5.7
   5.8
   9.1
   9.0
   Hct
   28.4
   30.9
   28.6
   27.8
   27.8
   Plt
   137
   128
   129
   151
   157
   Cr
   3.7
   3.6
   3.0
   2.7
   2.6
   2.5
   2.1
   1.7
   TropT
   <0.01
   Glucose
   178
   198
   187
   227
   [**Telephone/Fax (2) 12182**]15
   215
   Other labs: PT / PTT / INR:20.3/32.1/1.9, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/2.3,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:12.9 %, Mono:4.4 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:158 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   63 yo man with CHF (EF 15-20%), in MICU with hypotension/shock likely
   septic with contribution of adrenal insufficiency.
   Hypotension/Adrenal insufficiency: Off pressors and doing well.  Now on
   pred 30mg daily.  Would consider keeping him on an extended course
   given his symptomatic gout improvement along with necessity for BP for
   the time being.  Will need repeat [**Last Name (un) 45**] stim as an outpatient.
   GPC in blood cxs --> coag neg staph.  Likely contaminant.  Will d/c
   vanco.  Did recieve extra dose this AM despite level > 30.
   Acute renal failure:  Cr down to 1.7
   DM:  Now on sq insulin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-5-13**] 08:00 AM
   Arterial Line - [**2179-5-13**] 10:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: